US06586422B2
In analogy to the procedure as described in example 4 the 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile was reacted with ethanolamine in dioxane at 140° C. overnight to give 3-(2-hydroxy-ethylamino)-5 -(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile as a light yellow solid; MS: 311 (M+H)+.

reactant | 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | CSC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C15H15N5S
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(2-hydroxy-ethylamino)-5 -(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | OCCNC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C16H18N6O
